US06124343
Methyl 2-trifluoromethylphenylacetate
A solution of 2-trifluoromethylphenylacetic acid (5.0 g) in methanol (30 ml) containing 5 drops of concentrated sulphuric acid was heated at reflux for 2 hours. The reaction mixture was concentrated, diluted with ethyl acetate (100 ml), washed with 1 N sodium hydroxide (25 ml) then with brine (25 ml), dried over magnesium sulphate and evaporated to give the title compound (5.04 g) as a colourless oil.

reactant | 2-trifluoromethylphenylacetic acid | 5.0 g | FC(C1=C(C=CC=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | methanol | 30 ml | CO | CH4O
catalyst | sulphuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | Methyl 2-trifluoromethylphenylacetate | 5.04 g | FC(C1=C(C=CC=C1)CC(=O)OC)(F)F | C10H9F3O2
